US07884202B2
0.41 g (1.0 mmol) of 2′,3′,5′-tri-O-acetylguanosine was weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 2.0 ml of dimethyl sulfoxide, 2.0 ml of a 1N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 3.0 mol/l of dimethyl sulfoxide solution of trifluoromethyl iodide, 0.3 ml of a 1.0 mol/l aqueous solution of iron (II) sulfate and 0.2 ml of a 30% hydrogen peroxide aqueous solution. The mixture was stirred at 40 to 50° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 8-trifluoromethyl-2′,3′,5′-tri-O-acetylguanosine (19F-NMR yield: 51%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. 8-Trifluoromethyl-2′,3′,5′-tri-O-acetylguanosine was obtained as a yellow solid (0.22 g, yield: 47%) by silica gel column chromatography.

reactant | 2′,3′,5′-tri-O-acetylguanosine | 1.0 mmol, 0.41 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(=O)NC(N)=NC12 | C16H19N5O8
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | iron (II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | 8-trifluoromethyl-2′,3′,5′-tri-O-acetylguanosine | yield: 51% | FC(C=1N([C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O2)C=2N=C(NC(C2N1)=O)N)(F)F | C17H18F3N5O8
